US07211572B2
3-Benzyloxy-1-(2,2-dimethoxyethyl)-5-(2,2-dimethylpropionyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 4-fluorobenzylamide (157 mg) was dissolved in acetic acid (1.5 ml) and conc. hydrochloric acid (0.5 ml) was added. The mixture was stirred at 90° C. for 3 hr. The reaction mixture was concentrated and crystallized from ethyl acetate to give 7-(2,2-dimethylpropionyl)-2-(4-fluorobenzyl)-9-hydroxy-2H-pyrido[1,2-a]pyrazine-1,8-dione hydrochloride (92 mg).

reactant | 3-Benzyloxy-1-(2,2-dimethoxyethyl)-5-(2,2-dimethylpropionyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 4-fluorobenzylamide | 157 mg | FC1=CC=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)C(C(C)(C)C)=O)CC(OC)OC)C=C1 | C29H33FN2O6
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 7-(2,2-dimethylpropionyl)-2-(4-fluorobenzyl)-9-hydroxy-2H-pyrido[1,2-a]pyrazine-1,8-dione hydrochloride | 92 mg | Cl.CC(C(=O)C=1C(C(=C2N(C=CN(C2=O)CC2=CC=C(C=C2)F)C1)O)=O)(C)C | InChI=1S/C20H19FN2O4.ClH/c1-20(2,3)18(26)14-11-22-8-9-23(10-12-4-6-13(21)7-5-12)19(27)15(22)17(25)16(14)24;/h4-9,11,25H,10H2,1-3H3;1H
